US08975282B2
Step 1) N-(3-chloro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a suspension of 4-amino-2-chlorophenol (4.0 g, 28.00 mmol) and 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (7.4 g, 30.11 mmol) in DCM (70 mL) were added EDCI (6.65 g, 30.11 mmol) and HOAT (0.76 g, 5.68 mmol). The mixture was stirred at 45° C. for 20 hours, then cooled to rt and filtered. The filter cake was washed with DCM (20 mL×3), and dried at 50° C. in a vacuum oven overnight to give the title product as a gray solid (7.1 g, 72.1%).

reactant | 4-amino-2-chlorophenol | 28.00 mmol, 4.0 g | NC1=CC(=C(C=C1)O)Cl | C6H6ClNO
reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 30.11 mmol, 7.4 g | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | EDCI | 30.11 mmol, 6.65 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 5.68 mmol, 0.76 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | N-(3-chloro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 7.1 g, 72.1% | ClC=1C=C(C=CC1O)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C18H16ClN3O3
